US07812183B2
4-[5-(4-Chloro-phenyl)-pyrazol-1-yl]-2,2-dimethyl-3,4-dihydro-2H-pyrano[3,2-c]pyridin-3-ol (Compound #108)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-6-aza-cyclopropa[a]naphthalene and 5-(4-chloro-phenyl)-1H-pyrazole as starting materials, the title compound was prepared as a pale yellow solid.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-6-aza-cyclopropa[a]naphthalene | CC1(C2C(C3=CN=CC=C3O1)O2)C | C10H11NO2
reactant | 5-(4-chloro-phenyl)-1H-pyrazole | ClC1=CC=C(C=C1)C1=CC=NN1 | C9H7ClN2
product | 4-[5-(4-Chloro-phenyl)-pyrazol-1-yl]-2,2-dimethyl-3,4-dihydro-2H-pyrano[3,2-c]pyridin-3-ol | ClC1=CC=C(C=C1)C1=CC=NN1C1C(C(OC2=C1C=NC=C2)(C)C)O | C19H18ClN3O2
